US08754100B2
Synthesis of [(2-hydroxyethyl)phenylamino]-(4-trifluoromethylphenyl)acetonitrile
Trimethylsilyl cyanide (723 μL) was added to a mixture of 4-(trifluoromethyl)benzaldehyde (CAS #455-19-6, 1 g), N-phenylethanolamine (870 mg) and sulfamic acid (28 mg), and the mixture was stirred at room temperature for 20 hours. The reaction solution was partitioned with water and chloroform. The organic layer was dried over anhydrous magnesium sulfate. The organic layer was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (elution solvent:heptane:ethyl acetate=9:1→1:1) to obtain 775 mg of the title compound. The property values of the compound are as follows.

reactant | Trimethylsilyl cyanide | 723 μL | C[Si](C)(C)C#N | C4H9NSi
reactant | 4-(trifluoromethyl)benzaldehyde | 1 g | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | N-phenylethanolamine | 870 mg | C1(=CC=CC=C1)NCCO | C8H11NO
reactant | sulfamic acid | 28 mg | S(N)(O)(=O)=O | H3NO3S
product | [(2-hydroxyethyl)phenylamino]-(4-trifluoromethylphenyl)acetonitrile | 775 mg | OCCN(C1=CC=CC=C1)C(C#N)C1=CC=C(C=C1)C(F)(F)F | C17H15F3N2O
